US07429594B2
1-Azido-3-(4-methoxy-phenyl)-propan-2-ol
To a stirring solution of 2-(4-methoxy-benzyl)-oxirane (2.0 g, 12.2 mmol) in 10 mL DMF was added a solution of sodium azide (0.87 g, 13.4 mmol) in 2 mL water. The solution was heated to 90° C. for 90 min. The solvents were removed under reduced pressure and the resulting solid residue partitioned between ethyl acetate and water. The aqueous phase was washed three times with 10 mL ethyl acetate. The combined organic layers were dried over magnesium sulfate, then purified on 40 g silica eluting with 5-50% ethyl acetate/hexanes to give the product as a clear oil. NMR (CDCl3) d (1H, 1.82 ppm), m (2H, 2.7-2.8 ppm), dd (1H, 3.25 ppm), dd (1H, 3.35 ppm), s (3H, 3.75 ppm), m (1H, 3.9-4.0 ppm), d (2H, 6.85 ppm), d (2H, 7.10 ppm).

reactant | 2-(4-methoxy-benzyl)-oxirane | 12.2 mmol, 2.0 g | COC1=CC=C(CC2OC2)C=C1 | C10H12O2
reactant | sodium azide | 13.4 mmol, 0.87 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 2 mL | O | H2O
product | 1-Azido-3-(4-methoxy-phenyl)-propan-2-ol | N(=[N+]=[N-])CC(CC1=CC=C(C=C1)OC)O | C10H13N3O2
